.SUBCKT MCP6541 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* solely and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following comparators are covered by this model:
*      MCP6541, MCP6541R, MCP6541U, MCP6542, MCP6544
*
* Date of model creation: 9/27/2006
*
* Revision History:
*      REV A: 9/27/06 HNV Initial Model
*      REV B: 5/11/07 HNV Added MCP6541R, MCP6541U. Replaced DFFRSH with analog model
*      REV C:  9/5/16, removed MCP6543

* Recommendations:
*      Use PSPICE or Simetrix (7.1, or higher, other simulators may require translation). 
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit 
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      MCP6543: model with Chip Select; use MCP6541
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Distortion (detailed non-linear behavior)
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*      Offset voltage is generalized as a function of power supply voltage only
*      Output voltage headroom in model reflects 5.5V operation in datasheet graph.
*      Quiescent current switching vs. common mode input not modelled.
*      Input differential mode impedance in model >10M, but not >10T as in datasheet
*      
*
* Input Stage
V10  3 10 -505M
R10 10 11 690K
R11 10 12 690K
G10 10 11 10 11 144U
G11 10 12 10 12 144U
C11 11 12 576E-15
C12  1  0 4.00P IC=100m
E12 71 14 POLY(7) 20 0 21 0 22 0 23 0 26 0 27 0 111 0
+ 1.5M 79.6 79.6 79.6 79.6 1 1 0.5M
* LINE ABOVE FOR HYSTERESIS, LINE BELOW FOR NO HYSTERESIS
*+ 1.5M 79.6 79.6 79.6 79.6 1 1 0
G12 1 0 62 0 1m
G13 1 2 63 0 1m
M12 11 14 15 15 NMI 
M14 12 2 15 15 NMI 
G14 2 0 62 0 1m
C14  2  0 4.00P
I15 15 4 50.0U
V16 16 4 -305M
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1u)(2m,1m)) 
V13 3 13 -305M
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1u)(2m,1m)) 
R71  1  0 20.0E12
R72  2  0 20.0E12
R73  1  2 20.0E12
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
I22 22 23 1N
R22 22 0  1k
R23  0 23 1k
G26  0 26 POLY(2) 3 0 4 0   0.00 -177U -177U
R26 26  0 1
G27  0 27 POLY(2) 1 0 2 0  -2.75M 158U 158U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 12 11 1
R30 30  0 1.00K
G31 0 31 3 4 -2.7
I31 0 31 DC 110
R31 31  0 1 TC=2.34M,-4.57U
GD31 30 0 TABLE {V(30,31)} ((-100,-1n)(0,0)(1m,0.1)(2m,2))
G32 32 0 3 4 12
I32 32 0 DC 76.5
R32 32  0 1 TC=1.80M,-3.97U
GD32 0 30 TABLE {V(30,32)} ((-2m,2)(-1m,0.1)(0,0)(100,-1n))
G33  0 33 30 0 1m
R33  33 0 1K
G34  0 34 33 0 31.6M
R34  34 0 1K
C34  34 0 503N
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 3P
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 32U
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(18.0,1n))(20.0,1))
G36 33 0 TABLE {V(35,4)} ((-22.0,-1)((-20.0,-1n)(0,0)(1,1n))
*
* Output Stage
R80 50 0 100MEG
G50 0 50 57 96 2
R58 57  96 0.50
R57 57  0 500
C58  5  0 2.00P
G57  0 57 POLY(3) 3 0 4 0 35 0   0 1M 1M 2M
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
E55 55  0 POLY(2) 3 0 51 0 -1.26M 1 -39.0M
E56 56  0 POLY(2) 4 0 52 0 1.02M 1 -52.0M
R51 51 0 1k
R52 52 0 1k
GD51 50 51 TABLE {V(50,51)} ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD52 50 52 TABLE {V(50,52)}  ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
G53  3  0 POLY(1) 51 0  -50.0U 1M
G54  0  4 POLY(1) 52 0  -50.0U -1M
*
* Current Limit
G99 96 5 99 0 1
R98 0 98 1 TC=-2.95M,7.2U
G97 0 98 TABLE { V(96,5) } ((-11.0,-10.0M)(-1.00M,-9.9M)(0,0)(1.00M,9.9M)(11.0,10.0M))
E97 99 0 VALUE { V(98)*((V(3)-V(4))*760M + -1.15)}
D98 4 5 DESD
D99 5 3 DESD
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 1 TC=2.53M,-13.0U
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)} 
+ ((0,0)(600M,5.7N)(650M,30.0N)(800M,200N)
+ (1.33,558N)(1.4,570N)(5.5,580N))
*
* Temperature Sensitive offset voltage
I73 0 70 DC 1uA
R74 0 70 1 TC=3.00
E75 1 71 70 0 1 
*
* Temp Sensistive IBias
I62 0 62 DC 1uA
R62 0 62 REXP 68.2U
*
* Temp Sensistive Offset IBias
I63 0 63 DC 1uA
R63 0 63 REXPO 1U
*
* Hysteresis
G110 0 110 POLY(2) 3 0 4 0  3.1 -50M 50M
R110 110 0 1 TC=2.2M,-14U
E111 111 0 VALUE { V(110) * V(112) }
R121 57 121 100
C121 0 121 100p
E121 122 0 TABLE { V(121, 0) } 
+ ( (-1,0)(0,0)(.1m,5)(1,5) )
R122 122 1221  100
C122 1221 0 100p  
G122 1221 125 TABLE { V(1221, 125) } 
+ ( (-100,0)(0,0)(.1m,10)(.2m,100) )
R123 57 123 100
C123 0 123 100p
E123 124 0 TABLE { V(0, 123) } 
+ ( (-1,0)(0,0)(.1m,5)(1,5) )
R124 124 1241  100
C124 1241 0 100p  
G124 125 1241 TABLE { V(125, 1241) } 
+ ( (-100,0)(0,0)(.1m,10)(.2m,100) )
C125 0 125 1u IC=0
R125 0 125 10000MEG
E125 112 0 TABLE { V(125, 0) } 
+ ( (0,-1)(2.49,-0.99)(2.51,0.99)(5,1) )
*
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=20.0U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=146E-18 AF=1
*.MODEL REXP RES R={ ((1.01)^(10.1*(TEMP-27))) }
*.MODEL REXPO RES R={ ((1.01)^(9.0*(TEMP-27))) }
.MODEL REXP  RES TCE= 10.1
.MODEL REXPO RES TCE= 9
.ENDS MCP6541
